US08445478B2
3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}methanesulphonylamino)-N-(2-morpholin-4-yl-2-oxoethyl)benzamide (Compound No. 8)
67 mg of 1-hydroxybenzotriazole, 0.14 cm3 of triethylamine and 270 mg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride are added successively to a solution of 500 mg of 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}methanesulphonylamino)benzoic acid and 215 mg of 2-amino-1-morpholin-4-ylethanone hydrochloride in 15 cm3 of tetrahydrofuran. The reaction mixture is left stirring overnight at a temperature in the region of 20° C. After concentration of the reaction medium to dryness under reduced pressure, the residue obtained is taken up with dichloromethane. The organic phase is washed with water, dried, and concentrated to dryness under reduced pressure, to give a reaction crude which is purified by flash chromatography on a Merck 30 g silica cartridge (elution gradient: 100/0 to 95/5 dichloromethane/methanol). After concentration of the fractions under reduced pressure, a white foam is obtained which crystallizes after trituration with diethyl ether. After filtration and drying using a vane pump, 470 mg of 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}methanesulphonylamino)-N-(2-morpholin-4-yl-2-oxoethyl)benzamide are thus obtained in the form of white crystals.

reactant | 1-hydroxybenzotriazole | 67 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 270 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}methanesulphonylamino)benzoic acid | 500 mg | ClC1=CC=C(C=C1)C(N1CC(C1)CS(=O)(=O)NC=1C=C(C(=O)O)C=CC1)C1=CC=C(C=C1)Cl | C24H22Cl2N2O4S
reactant | 2-amino-1-morpholin-4-ylethanone hydrochloride | 215 mg | Cl.NCC(=O)N1CCOCC1
solvent | tetrahydrofuran | 15 cm3 | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | 0.14 cm3 | C(C)N(CC)CC | C6H15N
product | 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}methanesulphonylamino)-N-(2-morpholin-4-yl-2-oxoethyl)benzamide | ClC1=CC=C(C=C1)C(N1CC(C1)CS(=O)(=O)NC=1C=C(C(=O)NCC(=O)N2CCOCC2)C=CC1)C1=CC=C(C=C1)Cl | C30H32Cl2N4O5S
